US06172228B2
Next, (+)-(3-chlorophenyl)phenylmethylamine (+)tartrate (4.28 g) was suspended in chloroform (40 ml), and 28%-aqueous ammonia was added thereto to neutralize the mixture. Thereafter, the chloroform layer was separated therefrom. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed by evaporation in vacuo, to give (+)-(3-chlorophenyl)phenylmethylamine (2.45 g) as a pale yellow oil.

reactant | (+)-(3-chlorophenyl)phenylmethylamine (+)tartrate | 4.28 g | C(=O)(O)C(O)C(O)C(=O)O.ClC=1C=C(C=CC1)NCC1=CC=CC=C1
reactant | ammonia | N | H3N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | (+)-(3-chlorophenyl)phenylmethylamine | 2.45 g | ClC=1C=C(C=CC1)NCC1=CC=CC=C1 | C13H12ClN
